US06706699B2
Step 2: Hydroxy-(hydroxy-phenyl-phosphinoyl)-acetic Acid (15a)
To a solution of (ethoxy-phenyl-phosphinoyl)-hydroxy-acetic acid ethyl ester (382 mg, 1.41 mmol) in 10 mL of 6 M HCl was heated to reflux overnight. The resulting mixture was concentrated to a minimum volume and lyophilized affording a pale yellow solid (274 mg, 90%)

reactant | (ethoxy-phenyl-phosphinoyl)-hydroxy-acetic acid ethyl ester | 1.41 mmol, 382 mg | C(C)OC(C(O)P(=O)(C1=CC=CC=C1)OCC)=O | C12H17O5P
solvent | HCl | 6 M, 10 mL | Cl | ClH
product | Hydroxy-(hydroxy-phenyl-phosphinoyl)-acetic Acid | 274 mg, 90% | OC(C(=O)O)P(=O)(C1=CC=CC=C1)O | C8H9O5P
